US04988705
Stirring 2-[(3-chloro-phenyl)amino]-3-pyridinecarboxylic acid (30.8 g, 124 mmol) with SOCl2 (50 mL, 680 mmol) and DMF (0.5 mL) at 25° C. for 1 hr gave a solution which deposited a precipitate. Excess thionyl chloride was evaporated, the residue was mixed with benzene, and the solvent was evaporated to give crude, solid 2-[(3-chlorophenyl)amino]-3-pyridinecarbonyl chloride which was used directly in the next step C. Collecting, washing with benzene and petroleum ether, and drying the precipitate gave 2-[(3-chlorophenyl)amino]-3-pyridinecarbonyl chloride (32 g, 96%) as a yellow solid, mp 112°-115° C.

reactant | 2-[(3-chloro-phenyl)amino]-3-pyridinecarboxylic acid | 124 mmol, 30.8 g | ClC=1C=C(C=CC1)NC1=NC=CC=C1C(=O)O | C12H9ClN2O2
reactant | SOCl2 | 680 mmol, 50 mL | O=S(Cl)Cl | Cl2OS
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-[(3-chlorophenyl)amino]-3-pyridinecarbonyl chloride | ClC=1C=C(C=CC1)NC1=NC=CC=C1C(=O)Cl | C12H8Cl2N2O
